US04707497
An amount of 3.01 g of 2-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene is reacted under stirring at room temperature for 4 days with 2.04 g of styrene. After addition of ethyl acetate, to the reaction mixture there is added a saturated solution of hydrogen chloride in isopropyl alcohol to obtain the 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol hydrochloride. Yield: 31% of the theoretical value.

reactant | 2-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene | 3.01 g | NC1CC2=CC(=CC=C2CC1)OC | C11H15NO
reactant | styrene | 2.04 g | C=CC1=CC=CC=C1 | C8H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol hydrochloride | Yield: 31% | Cl.COC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC=CC=C1 | InChI=1S/C19H23NO2.ClH/c1-22-18-10-8-14-7-9-17(11-16(14)12-18)20-13-19(21)15-5-3-2-4-6-15;/h2-6,8,10,12,17,19-21H,7,9,11,13H2,1H3;1H
